US07781478B2
1-Ethyl-6-methoxy-1H-indole-3-carbaldehyde (600 mg, 2.95 mmol) is dissolved in acetone (85 mL). A solution of KMnO4 (450 mg, 2.85 mmol) in H2O (28 mL) is added. This is stirred at room temperature for 5 hours. Another solution of KMnO4 (450 mg, 2.85 mmol) in H2O (25 mL) is then added. After stirring for another hour at room temperature, the reaction is complete. The reaction mixture is quenched with 10% H2O2 (1.5 mL), and is then filtered through celite. The filtrate is stripped down under vacuum to roughly ⅓ of the volume. The residue is acidified with 6N HCl, and is extracted into ethyl acetate. Purification by silica gel column (hexanes/acetone/acetic acid, 70/30/1) yields crude product. Trituration with ether yields pure 1-ethyl-6-methoxy-1H-indole-3-carboxylic acid (365 mg, 56%) as a yellow solid.

reactant | 1-Ethyl-6-methoxy-1H-indole-3-carbaldehyde | 2.95 mmol, 600 mg | C(C)N1C=C(C2=CC=C(C=C12)OC)C=O | C12H13NO2
reactant | KMnO4 | 2.85 mmol, 450 mg | [O-][Mn](=O)(=O)=O.[K+]
reactant | KMnO4 | 2.85 mmol, 450 mg | [O-][Mn](=O)(=O)=O.[K+]
reactant | ether | CCOCC | C4H10O
solvent | acetone | 85 mL | CC(=O)C | C3H6O
solvent | H2O | 28 mL | O | H2O
solvent | H2O | 25 mL | O | H2O
product | 1-ethyl-6-methoxy-1H-indole-3-carboxylic acid | 365 mg, 56% | C(C)N1C=C(C2=CC=C(C=C12)OC)C(=O)O | C12H13NO3
